US09302998B2
STEP A: 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-(4-bromomethyl-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester
Triphenylphosphine (1.45 g, 5.54 mmol) and carbon tetrabromide (1.84 g, 5.54 mmol) were added to a solution of 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-(4-hydroxymethyl-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester (2.4 g, 4.26 mmol) in dry DCM (48 ml) at 0° C. The mixture was stirred at this temperature for one hour, then the solvent was removed under reduced pressure and the residue was purified by column chromatography (PE/AcOEt: 70:30). The title compound was obtained as an oil (2.32 g, 87%).

reactant | Triphenylphosphine | 5.54 mmol, 1.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 5.54 mmol, 1.84 g | C(Br)(Br)(Br)Br | CBr4
reactant | 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-(4-hydroxymethyl-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | 4.26 mmol, 2.4 g | COC(=O)C=1N=NN(C1C1=CC=C(C=C1)CO)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H33N3O5
solvent | DCM | 48 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-(4-bromomethyl-phenyl)-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | Yield: 87% | COC(=O)C=1N=NN(C1C1=CC=C(C=C1)CBr)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H32BrN3O4
